US05596006
3-Amino-6-methylbenzonitrile
A suspension of 8.11 g (50 mmol) of 6-methyl-3-nitrobenzonitrile and 0.81 g of 10% of palladium-on-charcoal in 50 ml of ethanol and 50 ml of ethyl acetate is hydrogenated under 2.9 bar for 1 hour. The catalyst is filtered off, the filtrate is concentrated and the residue is crystallised from ether/petroleum ether.

reactant | 6-methyl-3-nitrobenzonitrile | 50 mmol, 8.11 g | CC1=CC=C(C=C1C#N)[N+](=O)[O-] | C8H6N2O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 0.81 g | [Pd] | Pd
product | 3-Amino-6-methylbenzonitrile | NC=1C=C(C#N)C(=CC1)C | C8H8N2
